US05217969
Using the procedure described in Example 12, 4-[5-fluoro-3-(3-oxo-2,3-dihydro-4H-1,4-benzothiazin-7-ylthio)phenyl]-4-methoxytetrahydropyran was reacted with methyl iodide to give 4-[5-fluoro-3-(4-methyl-3-oxo-2,3-dihydro-4H-1,4-benzothiazin-7-ylthio)phenyl]-4-methoxytetrahydropyran in 41% yield, m.p. 131°-133° C.

reactant | 4-[5-fluoro-3-(3-oxo-2,3-dihydro-4H-1,4-benzothiazin-7-ylthio)phenyl]-4-methoxytetrahydropyran | FC=1C=C(C=C(C1)C1(CCOCC1)OC)SC1=CC2=C(NC(CS2)=O)C=C1 | C20H20FNO3S2
reactant | methyl iodide | CI | CH3I
product | 4-[5-fluoro-3-(4-methyl-3-oxo-2,3-dihydro-4H-1,4-benzothiazin-7-ylthio)phenyl]-4-methoxytetrahydropyran | 41% yield | FC=1C=C(C=C(C1)C1(CCOCC1)OC)SC1=CC2=C(N(C(CS2)=O)C)C=C1 | C21H22FNO3S2
